US08975416B2
4-(1H,1′H-5,5′-Bibenzo[d]imidazol-2-yl)aniline (Compound 8)
4-(2-(4-Aminophenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine (200 mg, 0.64 mmol) and formic acid (0.24 mL, 6.35 mmol) were dissolved in H2O (2 mL) and the mixture heated to 160° C. for 20 min under microwave irradiation. On cooling, a precipitate formed, which was filtered off and washed with water. The filtrate was basified with K2CO3 and stirred for 30 min by which time a precipitate had formed. The mixture was filtered and the precipitate washed with water and dried under suction. The crude product was purified by column chromatography (EtOAc to 85:15 EtOAc-MeOH) to afford the product as a white solid (12 mg, 6%).

reactant | 4-(2-(4-Aminophenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine | 0.64 mmol, 200 mg | NC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C19H17N5
reactant | formic acid | 6.35 mmol, 0.24 mL | C(=O)O | CH2O2
solvent | H2O | 2 mL | O | H2O
product | 4-(1H,1′H-5,5′-Bibenzo[d]imidazol-2-yl)aniline | 12 mg, 6% | N1C(=NC2=C1C=CC(=C2)C2=CC1=C(NC=N1)C=C2)C2=CC=C(N)C=C2 | C20H15N5
